US08426441B2
A 5 mL Microwave Reactor Vessel was charged with 1-(6-Bromo-imidazo[1,2-a]pyridin-8-yl)-3-methyl-urea (85 mg, 0.317 mmol), 4-(1-Hydroxy-1-methyl-ethyl)-N-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide (125 mg, 1 eq), tetrakis(triphenylphosphine)palladium (37 mg, 0.1 eq), 1M sodium carbonate (1 mL) and dimethoxyethane (2 mL). The reaction mixture was irradiated for 10 minutes at 150° C. on the Microwave Reactor. The reaction mixture was then partitioned between ethyl acetate (150 mL) and water (50 ml). Separated the layers and washed the organic layer with water (4×50 mL), then finally washed with brine (1×50 mL). The ethyl acetate layer was dried over magnesium sulfate, filtered and concentrated. The crude product was purified by Preparative Thin Layer Chromatography, eluting with 50% acetone in hexanes to give 4-(1-Hydroxy-1-methyl-ethyl)-N-{2-methyl-3-[8-(3-methyl-ureido)-imidazo[1,2-a]pyridin-6-yl]-phenyl}-benzamide as an off-white powder (20 mg), ((M+H)+=458).

reactant | 1-(6-Bromo-imidazo[1,2-a]pyridin-8-yl)-3-methyl-urea | 0.317 mmol, 85 mg | BrC=1C=C(C=2N(C1)C=CN2)NC(=O)NC | C9H9BrN4O
reactant | 4-(1-Hydroxy-1-methyl-ethyl)-N-[2-methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide | 125 mg, 1 eq | OC(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)B2OC(C(O2)(C)C)(C)C)C)C=C1 | C23H30BNO4
reactant | sodium carbonate | 1M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 37 mg, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 2 mL | C(OC)COC | C4H10O2
product | 4-(1-Hydroxy-1-methyl-ethyl)-N-{2-methyl-3-[8-(3-methyl-ureido)-imidazo[1,2-a]pyridin-6-yl]-phenyl}-benzamide | 20 mg | OC(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)C=2C=C(C=3N(C2)C=CN3)NC(=O)NC)C)C=C1 | C26H27N5O3
